Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Advil
 
Attending: ___.
 
Chief Complaint:
Flank pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F HIV+ presents to the ED with abdominal pain and right 
flank pain for 5 days.  Symptoms were preceded by one week of 
weakness and fatigue, which have persisted.  She also reports 
nausea and vomiting, with four episodes of vomiting in the past 
week.  She endorses intermittent chills but denies any fevers, 
and has had decreased appetite and ___ pound weight loss over 
the past few months.  She denies any night sweats or dysuria.  
There is some distant history of urinary tract infections.
.
Of note, she recently experienced worsening of he chronic 
epigastric pain, which showed gastritis on endoscopy last year, 
and was worked up with positive H.pylori serology, + urease 
breath test.  She started on empiric treatment for H.pylori with 
biaxin/amoxicillin/protonix.  However, she discontinued 
treatment after 7 days due to the symptoms of flank pain, 
nausea/vomiting that she began experiencing.  
.
In the ED, she had basic labs drawn.  CBC showed no left shift, 
creatinine was elevated at 1.3 (baseline Cr unknown), LDH was 
normal, and uric acid was mildly elevated at 5.9.  Urinalysis 
showed no bacteruria or pyuria.  She had a CT abd/pelvis in the 
ED which showed multiple areas of hypoenhancement of bilateral 
kidneys concerning for lymphoma.  Pyelonephritis was thought to 
be much less likely per initial read. Oncology was contacted by 
ED staff and recommended Medicine admission with Onc c/s in the 
AM.  
.  
Initial ED vitals 97.1, 77, 126/75, 14, 100. In the ED given: 
viscous lidocaine, donnatol, percocet x 2, GI cocktail.  
.  
On the floor, pt stating that her epigastric pain is at chronic 
baseline.  Denies hx of renal stones, prior pyelonephritis. She 
reports that her last CD4 count was earlier this month at 760. 
CD4 has never been low and denies prior opportunisitic 
infections.  Denies any recent sexual activity.
.  
Review of Systems:  
(+) Per HPI  
(-) Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies chest pain or tightness, palpitations. Denies cough, 
shortness of breath, or wheezes.  No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 
Denies rashes or skin breakdown. No numbness/tingling in 
extremities. No feelings of depression or anxiety.  

 
Past Medical History:
Past Medical History:  
-HIV+  
-gastritis, h.pylori biopsy+ s/p 2 prior attempts at 
eradiaction, this is ___ attempt after recent urease breath test 
and continued pain attributed to gastritis  
 
Social History:
___
Family History:
Father - HTN. 
 
Physical Exam:
Physical Exam on admission:  
VS: 98.1, 62, 114/76, 18, 100% RA  
GA: AOx3, NAD  
HEENT: PERRLA. MMM. no JVD. neck supple.  mildly enlarged 
nontender cervical LNs, no supraclavicular lymphadenopathy.
Cards: RRR S1/S2 heard. no murmurs/gallops/rubs.  
Pulm: CTAB no crackles or wheezes  
Abd: epigastric tenderness, soft, +BS. no g/rt. neg HSM. R>L CVA 
tenderness  
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no lesions noted  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities  


Physical Exam on discharge:
VS: 97.9, 67, 109/73, 18, 100% RA
GA: AOx3, NAD  
HEENT: PERRLA. MMM. no JVD. neck supple.  mildly enlarged 
nontender cervical LNs, no supraclavicular lymphadenopathy.
Cards: RRR S1/S2 heard. no murmurs/gallops/rubs.  
Pulm: CTAB no crackles or wheezes  
Abd: epigastric tenderness, soft, +BS. no g/rt. neg HSM. R>L 
lower back and flank tenderness extending bilaterally across 
midline, decreased focal CVA tenderness vs prior exam
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no lesions noted  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities  


 
Pertinent Results:
LABORATORY VALUES ON ADMISSION:

Chemistry-
___ 11:14AM   GLUCOSE-79 UREA N-9 CREAT-1.3* SODIUM-140 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-27 ANION GAP-13

Hematology-
___ 11:14AM   WBC-5.2 RBC-4.37 HGB-11.1* HCT-34.5* MCV-79* 
MCH-25.3* MCHC-32.1 RDW-14.3
___ 11:14AM   NEUTS-56.4 ___ MONOS-4.3 EOS-0.3 
BASOS-0.4
___ 11:14AM   PLT COUNT-369

LFTs-
___ 11:14AM   ALT(SGPT)-14 AST(SGOT)-17 LD(LDH)-172 ALK 
PHOS-114* TOT BILI-0.2
___ 11:14AM   LIPASE-42

Other-
___ 11:20AM   LACTATE-1.2
___ 11:14AM   URIC ACID-5.9*

Urine-
___ 12:10PM URINE  HOURS-RANDOM UREA N-144 CREAT-39 
SODIUM-48
___ 12:10PM URINE  HOURS-RANDOM
___ 12:10PM URINE  UCG-NEGATIVE OSMOLAL-188
___ 12:10PM URINE  GR HOLD-HOLD
___ 12:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
.
LABORATORY VALUES ON DISCHARGE:

___ 07:25AM BLOOD WBC-3.7* RBC-3.93* Hgb-10.2* Hct-31.6* 
MCV-81* MCH-26.0* MCHC-32.3 RDW-15.1 Plt ___
___ 11:00AM BLOOD ___ PTT-31.6 ___
___ 07:25AM BLOOD Glucose-86 UreaN-8 Creat-1.0 Na-141 K-4.4 
Cl-106 HCO3-27 AnGap-12
___ 07:25AM BLOOD Calcium-8.7 Phos-4.3 Mg-1.9
___ 07:25AM BLOOD Osmolal-300
.
MICROBIOLOGY:
URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
SENSITIVITIES: MIC expressed in MCG/ML
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

Blood Culture, Routine (Pending): 
.
IMAGING:

CT PELVIS W/CONTRAST Study Date of ___ 2:07 ___ 
IMPRESSION: There are multiple hypoattenuating lesions within 
the kidneys 
bilaterally. No discrete mass is seen within the kidneys and the 
kidney 
contours are preserved. Top differential consideration is renal 
lymphoma.  
While pyelonephritis could have this appearance, this is thought 
less likely due to normal urine and lab values and lack of fever 
and elevated white blood cell count. Diagnostic considerations 
includes infarcts although the hypoattenuation noted is not 
typical of infarcts and there is no noticeable underlying 
vascular disease. Metastatic renal disease is also thought less 
likely. 

CT ABDOMEN W/CONTRAST Study Date of ___ 2:07 ___ 
IMPRESSION: There are multiple hypoattenuating lesions within 
the kidneys 
bilaterally. No discrete mass is seen within the kidneys and the 
kidney 
contours are preserved. Top differential consideration is renal 
lymphoma.  
While pyelonephritis could have this appearance, this is thought 
less likely due to normal urine and lab values and lack of fever 
and elevated white blood cell count. Diagnostic considerations 
includes infarcts although the hypoattenuation noted is not 
typical of infarcts and there is no noticeable underlying 
vascular disease. Metastatic renal disease is also thought less 
likely. 

RENAL U.S. Study Date of ___ 1:29 ___ 
IMPRESSION: Normal appearance of the kidneys bilaterally, 
without evidence of enlargement or focal mass/mass effect to 
suggest lymphoma. Overall, imaging findings are thought to 
likely represent pyelonephritis. 

CHEST (PA & LAT) Study Date of ___ 9:05 AM 
IMPRESSION: No evidence of intrathoracic pathology.
.
OTHER:
ECG Study Date of ___  11:51:44 AM 
Sinus rhythm. Normal tracing. No previous tracing available for 
comparison.  
  
 

 
Brief Hospital Course:
___ yo HIV+ F [CD4>700] presenting with flank pain and with CT 
findings concerning for renal lymphoma vs pyelonephritis vs GU 
pathology.  
.  
# FLANK PAIN / COMPLICATED UTI:  Etiology was somewhat 
mysterious throughout her hospital course.  Urinalysis showed no 
pyuria/bacteruria, she was afebrile throughout with no elevated 
WBC count.  The only abnormal lab was an elevated creatinine of 
1.3 over her baseline of 0.6 per her PCP, although this trended 
downward to 1.0 overnight.  Initial radiology CT read suggested 
lymphoma much more likely than pyelo.  We discussed this with 
radiology, who believed that the appearance could be typical for 
either bilateral pyelo or bilateral lymphoma; their initial 
assessment suggesting that pyelo was less likely was based on 
absence of fever, normal WBC count, and absence of 
pyuria/bacteruria.  Her presentation is not entirely consistent 
with either possiblity.  While CT findings, weight loss, HIV 
substrate argue for lymphoma, her normal LDH/uric acid and lack 
of typical "B" symptoms argue against, although she may be 
susceptible to non-Hodgkin's which would often not show B 
symptoms.  CXR negative for adenopathy.  Renal ultrasound was 
performed as a ___ to CT findings to determine whether 
there were discrete lesions to biopsy, however this study was 
normal and did not suggest pathology in areas concerning on CT, 
no hydronephrosis, no evidence of pyelonephritis.  Gynecologic 
pathology remains low on the differential, as she is not 
sexually active and does not have typical symptoms, and her 
urine b-HCG was negative ruling out pregnancy.  Her urine 
culture did eventually grow >100,000 E.coli (sensitive to all 
cephalosporins), suggesting complicated UTI as the most likely 
diagnosis.  She was discharged on a PO regimen of cefpodoxime x 
7 additional days.  She continued to have flank pain, which was 
managed with oxycodone on the floor, and was given prescription 
for Percocet as an outpatient.  
.
# Acute kidney injury - Cr 0.5-0.6 at baseline, elevated to 1.3 
on admission (see above).  Unclear eitology.  Patient vomited 
and was taking poor POs prior to admission, so there may be some 
prerenal component.  Urine lytes revealed a FeNa 1.6, which is 
nondiagnostic for prerenal vs intrinsic renal disease.  Her 
creatinine should be re-checked as an outpatient, with further 
workup including urine smear if Cr has not normalized.
.  
# HIV: Her dose of truvada was reduced to 200-300mg every other 
day based on her increased creatinine on admission, but 
re-adjusted to 200-300mg daily upon improvement of her renal 
function. 
.
# Epigastric pain: Likely due to gastritis.  We continued to 
hold H.pylori therapy. Further treatment of her H. Pylori can be 
managed on an outpatient basis.  
.  
# Disposition: home with PCP ___.
 
Medications on Admission:
Emtricitabine-Tenofovir [Truvada] 200-300mg 1 tab PO daily
Raltegravir [Isentress] 400mg PO daily
Iron supplements
 
Discharge Medications:
1. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Emtricitabine-Tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
3. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 7 days.  
5. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain for 7 days.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Urinary tract infection

Secondary:
HIV
Gastritis (chronic)

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted to the hospital for evaluation and management 
of your flank pain.  You were treated with intravenous fluids 
and antibiotics.  A CT scan was performed, revealing several 
areas of decreased signal that were concerning for a lymphoma in 
your kidneys, however a ___ ultrasound did not show any 
abnormalities.  Your urine culture showed bacteria in your 
urine.  You were diagnosed with a complicated urinary tract 
infection.  You should complete your course of antibiotics as an 
outpatient to finish your treatment.

The following changes were made to your medication regimen:
1.  Please take cefpodoxime 200mg (2 tablets) by mouth, every 12 
hours for 7 additional days.
2.  Please take Percocet ___ tablets by mouth, every ___ 
hours as needed for pain.
3.  DO NOT RESTART your H. Pylori treatment until you talk with 
your GI doctor.
4.  The pain medication can make you constipated.  Please take 
over-the-counter Colace, Sennakot, or both while you are taking 
the Percocet. 

Please take the remainder of your medications as prescribed.

 
Followup Instructions:
___